US07419984B2
6-(5-Chloro-2-ethoxy-phenyl)-N*4*-(4-trifluoromethyl-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 53, 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine and 4-trifluoromethyl-phenylamine provided the title compound (78% yield). 1H NMR (DMSO-d6) δ 1.40 (t, 3H, J=6.9 Hz, CH3), 4.15 (q, 2H, J=6.9 Hz, CH2), 6.45 (s, 2H, NH2), 6.84 (s, 1H, Ar), 7.16 (d, 1H, J=8.9 Hz, Ar), 7.43 (dd, 1H, J=8.8 Hz, 2.8 Hz, Ar), 7.61 (d, 2H, J=8.9 Hz, Ar), 7.93 (d, 1H, J=2.8 Hz, Ar), 7.99 (d, 2H, J=8.9 Hz), 9.59 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC)N | C12H11Cl2N3O
reactant | 4-trifluoromethyl-phenylamine | FC(C1=CC=C(C=C1)N)(F)F | C7H6F3N
product | 6-(5-Chloro-2-ethoxy-phenyl)-N*4*-(4-trifluoromethyl-phenyl)-pyrimidine-2,4-diamine | 78% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)C(F)(F)F)OCC | C19H16ClF3N4O
